US08048878B2
Synthesis of (6S*,9aR*)-6-(3,4,5-trifluorophenyl)-1,2,3,6,9,9a-hexahydroquinolizin-4-one
Methanesulfonyl chloride (776 μL) and triethylamine (2.79 mL) were added to a solution of (6S*,8S*,9aR*)-8-hydroxy-6-(3,4,5-trifluorophenyl)octahydroquinolizin-4-one (1.0 g) in methylene chloride (20 mL) under ice-cooling, and the reaction solution was stirred at room temperature for two hours. The solvent was removed by an evaporator. Then, sodium methoxide (28% solution in methanol, 3.22 g) was added to a mixed solution of the resulting residue in THF-ethanol (17 mL), and the reaction solution was stirred at room temperature for four hours. To make the starting material disappear, sodium methoxide (28% solution in methanol, 5.0 mL) was added to the reaction solution, which was then stirred at room temperature overnight. Water and ethyl acetate were added to the reaction solution, and the organic layer was separated. The resulting organic layer was washed with brine, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system->ethyl acetate-methanol system) to obtain 681 mg of the title compound. The property values of the compound are as follows.

reactant | Methanesulfonyl chloride | 776 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 2.79 mL | C(C)N(CC)CC | C6H15N
reactant | (6S*,8S*,9aR*)-8-hydroxy-6-(3,4,5-trifluorophenyl)octahydroquinolizin-4-one | 1.0 g | O[C@@H]1C[C@H](N2C(CCC[C@@H]2C1)=O)C1=CC(=C(C(=C1)F)F)F | C15H16F3NO2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | (6S*,9aR*)-6-(3,4,5-trifluorophenyl)-1,2,3,6,9,9a-hexahydroquinolizin-4-one | 681 mg | FC=1C=C(C=C(C1F)F)[C@H]1N2C(CCC[C@@H]2CC=C1)=O | C15H14F3NO
